US06333324B1
Phenyl chloroformate (60 mg) in CHCl3 (1 ml) was added to (2R)-1-[5-(4-Fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide (150 mg) in pyridine (0.5 ml) and CHCl3 (0.5 ml) dropwise with cooling on an ice bath. The reaction mixture was stirred at said temperature for 2 hours. The mixture was concentrated in vacuo, and the residue was partitioned between AcOEt and 5% aqueous citric acid. The organic layer was washed with 5% aqueous citric acid, saturated aqueous NaHCO3 solution and saturated aqueous NaCl solution, dried over MgSO4, and concentrated in vacuo to give 202 mg of (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-phenoxycarbonyl-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide.

reactant | Phenyl chloroformate | 60 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | (2R)-1-[5-(4-Fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 150 mg | FC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1[C@H](CNCC1)C(=O)NOC1OCCCC1 | C20H24FN3O5S2
solvent | CHCl3 | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-phenoxycarbonyl-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 202 mg | FC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)OC1=CC=CC=C1)C(=O)NOC1OCCCC1 | C27H28FN3O7S2
